US05078750
To a solution of geniposide (6.5 g) dissolved in distilled water (65 ml), was added β-glucosidase (No.G-0395, β-D-glucoside glucohydrase EC 3.2.1.21) (316.55 mg, 1677.72 units) the mixture was incubated at 37° C. for 4.5 hours. The progress of the reaction was monitored by TLC (chloroform:methanol=8:2, visualized with 50%-sulfuric acid). After the reaction was complete, the reaction solution was extracted several times with ethyl acetate, and subsequently the ethyl acetate layer was concentrated to give genipin as white needles (2.55 g, yield 67.3%).

reactant | geniposide | 6.5 g | COC(=O)C1=CO[C@H]([C@H]2[C@@H]1CC=C2CO)O[C@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)O | C17H24O10
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | methanol | CO | CH4O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 65 ml | O | H2O
product | genipin | 2.55 g, yield 67.3% | COC(=O)C1=CO[C@H]([C@H]2[C@@H]1CC=C2CO)O | C11H14O5
